US08809333B2
To a solution of (2R)-4-{4-[(3-cyanophenyl)ethynyl]-1H-pyrazol-1-yl}-2-methyl-2-(methylsulfonyl)butanoic acid (0.360 g, 0.969 mmol) in 2-MeTHF (30 mL) was added N-methyl morpholine (0.139 g, 1.36 mmol, 1.4 eq), followed by CDMT (0.204 g, 1.16 mmol, 1.2 eq). The reaction mixture was allowed to stir for one hour. O-Tetrahydro-2H-pyran-2-yl-hydroxylamine (0.136 g, 1.16 mmol, 1.2 eq) was added, and the reaction mixture and was allowed to stir for an additional two hours. Water (20 mL) was added, and the solution was extracted with 2-MeTHF (100 mL). The aqueous layer was re-extracted with 2-MeTHF (150 mL), and the combined organic layers were washed with brine. The organic layer was dried over sodium sulfate, filtered, and concentrated. The crude was purified by flash chromatography, eluting with 30%-100% ethyl acetate/heptane to yield (2R)-4-{4-[(3-cyanophenyl)ethynyl]-1H-pyrazol-1-yl}-2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide (209 mg, 46% yield) as a colorless oil. LC-MS M−H 469.3.

reactant | (2R)-4-{4-[(3-cyanophenyl)ethynyl]-1H-pyrazol-1-yl}-2-methyl-2-(methylsulfonyl)butanoic acid | 0.969 mmol, 0.360 g | C(#N)C=1C=C(C=CC1)C#CC=1C=NN(C1)CC[C@](C(=O)O)(S(=O)(=O)C)C | C18H17N3O4S
reactant | N-methyl morpholine | 1.36 mmol, 0.139 g, 1.4 eq | CN1CCOCC1 | C5H11NO
reactant | O-Tetrahydro-2H-pyran-2-yl-hydroxylamine | 1.16 mmol, 0.136 g, 1.2 eq | O1C(CCCC1)ON | C5H11NO2
reactant | Water | 20 mL | O | H2O
solvent | 2-MeTHF | 30 mL | CC1CCCO1 | C5H10O
product | (2R)-4-{4-[(3-cyanophenyl)ethynyl]-1H-pyrazol-1-yl}-2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide | 209 mg, 46% yield | C(#N)C=1C=C(C=CC1)C#CC=1C=NN(C1)CC[C@](C(=O)NOC1OCCCC1)(S(=O)(=O)C)C | C23H26N4O5S
